US07220877B2
To a solution of 1,4-diiodobenzene (1.32 g, 4.0 mmol) in diisopropylamine (12 mL) under a nitrogen atmosphere were added copper(I) iodide (60 mg, 0.3 mmol) and tetrakis(triphenylphosphine)palladium (80 mg, 0.07 mmol). After the mixture stirred for 1 h, a solution of 2-penten-4-yn-1-ol (1.0 g, 12.0 mmol) in diisopropylamine (7 mL) was added. After stirring under a nitrogen at 60° C. for 8 h, the reaction mixture was filtered and the filtrate evaporated to dryness. The product was purified by flash chromatography using toluene/ethyl acetate (2:1) graduated to ethyl acetate as eluent to give 520 mg (55%) of (E)(E) 5-[4-(5-hydroxy-pent-3-en-1-ynyl)-phenyl]-pent-2-en-4-yn-1-ol.

reactant | 1,4-diiodobenzene | 4.0 mmol, 1.32 g | IC1=CC=C(C=C1)I | C6H4I2
reactant | 2-penten-4-yn-1-ol | 12.0 mmol, 1.0 g | C(C=CC#C)O | C5H6O
solvent | diisopropylamine | 12 mL | C(C)(C)NC(C)C | C6H15N
solvent | diisopropylamine | 7 mL | C(C)(C)NC(C)C | C6H15N
catalyst | copper(I) iodide | 0.3 mmol, 60 mg | [Cu]I
catalyst | tetrakis(triphenylphosphine)palladium | 0.07 mmol, 80 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (E)(E) 5-[4-(5-hydroxy-pent-3-en-1-ynyl)-phenyl]-pent-2-en-4-yn-1-ol | 520 mg, 55% | OC/C=C/C#CC1=CC=C(C=C1)C#C/C=C/CO | C16H14O2
